US06274725B1
Synthesis of imidazolium hexafluorophosphate
Hexafluorophosphoric acid (65% in water) is purchased from Fluka and evaporated with pyridine three times to concentrate. A solution of imidazole or benzimidazole (20 mmol) in ether (100 mL) is treated with 20 mmol of evaporated hexafluorophosphoric acid under stirring and at 0° C. After mixing the solution is evaporated and the slurry is treated with anhydrous ether. The salt is isolated by filtration, followed by washing with ether and drying in vacuo.

reactant | Hexafluorophosphoric acid | F[P-](F)(F)(F)(F)F.[H+]
reactant | imidazole | N1C=NC=C1 | C3H4N2
reactant | benzimidazole | 20 mmol | N1=CNC2=C1C=CC=C2 | C7H6N2
reactant | hexafluorophosphoric acid | 20 mmol | F[P-](F)(F)(F)(F)F.[H+]
solvent | ether | 100 mL | CCOCC | C4H10O
product | imidazolium hexafluorophosphate | F[P-](F)(F)(F)(F)F.[NH+]1=CNC=C1 | InChI=1S/C3H4N2.F6P/c1-2-5-3-4-1;1-7(2,3,4,5)6/h1-3H,(H,4,5);/q;-1/p+1
